US03983239
Preparation of 2-(β-hydroxyethyl)-8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
A mixture of 8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (10.0 g), ethylene bromohydrin (8.0 g) and potassium carbonate (14.6 g) in methyl ethyl ketone (80 ml) is refluxed with stirring for 16 hours. The insoluble materials are filtered off and the filtrate is concentrated under reduced pressure. The resulting residue is dissolved in a dilute hydrochloric acid. The dilute hydrochloric acid layer is separated, washed with benzene, made alkaline with aqueous sodium hydroxide and then extracted with benzene. The benzene layer is dried over anhydrous sodium sulfate and concentrated to give a crude product as an oily substance. The crude product is treated in the same manner as described in Example 1 (1) to give the dihydrochloride of the titled compound (7.8 g), m.p. 182° -185°C (recrystallized from aqueous ethanol).

reactant | 8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 10.0 g | CC1=CC=2C3C(NC2C=C1)CCNC3 | C12H16N2
reactant | ethylene bromohydrin | 8.0 g | C(CO)Br | C2H5BrO
reactant | potassium carbonate | 14.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 80 ml | C(C)C(=O)C | C4H8O
product | 2-(β-hydroxyethyl)-8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | OCCN1CC2C(NC=3C=CC(=CC23)C)CC1 | C14H20N2O
